US06001611
To 2'-deoxy-N -bis-ortho-nitrobenzyladenosine (200 mg, 0.518 mmol) was added anhydrous pyridine (10 ml) and evaporated to dryness. Pyridine (10 ml) was added followed by 4-4'-dimethoxytrityl chloride (900 mg, 2.3 mmol, 4.5 equiv.) and triethylamine (280 mg, 2.76 mmol, 4.0 equiv.) and stirred at room temperature under an argon atmosphere for 5 hours. Water (0.5 ml) was added and stirred for 20 minutes. The mixture was partitioned between ether and water (20 ml each) and the aqueous phase was re-extracted with ether (20 ml). The extracts were combined and washed with water (20 ml) and dried over anhydrous sodium sulfate, filtered and evaporated. The material was purified by chromatography on silica gel (4 g, using 0.7-2.5% methanol in methylene chloride) to yield 5'-O-DMT- N6 -bis-ortho-nitrobenzyl-2'-deoxyadenosine, (121 mg, 33%).

reactant | ortho-nitrobenzyladenosine | 0.518 mmol, 200 mg | [N+](=O)([O-])C1=C(C[C@@]2([C@H](O)[C@H](O)[C@@H](CO)O2)N2C=NC=3C(N)=NC=NC23)C=CC=C1 | C17H18N6O6
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 2.76 mmol, 280 mg, 4.0 equiv. | C(C)N(CC)CC | C6H15N
solvent | Water | 0.5 ml | O | H2O
product | ortho-nitrobenzyl-2'-deoxyadenosine | 121 mg, 33% | [N+](=O)([O-])C1=C(C[C@@]2(C[C@H](O)[C@@H](CO)O2)N2C=NC=3C(N)=NC=NC23)C=CC=C1 | C17H18N6O5
